US07875645B2
2-(2-cyclopropyl-6-methyl-benzyl)-4,5-dihydro-1H-imidazole was prepared from 1-cyclopropyl-2-(2,2-dibromo-vinyl)-3-methyl-benzene and ethylenediamine in analogy to Example 1e): yellow crystals; MS (ISP): 215.3 ([M+H]+, 100%).

reactant | 1-cyclopropyl-2-(2,2-dibromo-vinyl)-3-methyl-benzene | C1(CC1)C1=C(C(=CC=C1)C)C=C(Br)Br | C12H12Br2
reactant | ethylenediamine | C(CN)N | C2H8N2
product | 2-(2-cyclopropyl-6-methyl-benzyl)-4,5-dihydro-1H-imidazole | C1(CC1)C1=C(CC=2NCCN2)C(=CC=C1)C | C14H18N2
